** sch_path: /home/ubuntu/GitHub/sky130-pll/.loom/worktrees/issue-197/sim/jitter-calibration/testbench/tb_jitter_calibration.sch
**.subckt tb_jitter_calibration
R1 CLK GND 1k m=1
**** begin user architecture code

** GENERATED -- variant K05b: 300 cycles, nominal period
** 3.9952 ns, injected period jitter 0.500000% RMS
** (seeded RNG, seed 185005), TR = TF = 200 ps.
VCLK CLK GND pwl(
+ 0.000000n 0 1.900000n 0 2.100000n 1.8 3.893498n 1.8
+ 4.093498n 0 5.886996n 0 6.086996n 1.8 7.879382n 1.8
+ 8.079382n 0 9.871768n 0 10.071768n 1.8 11.873771n 1.8
+ 12.073771n 0 13.875775n 0 14.075775n 1.8 15.882743n 1.8
+ 16.082743n 0 17.889711n 0 18.089711n 1.8 19.889045n 1.8
+ 20.089045n 0 21.888378n 0 22.088378n 1.8 23.893612n 1.8
+ 24.093612n 0 25.898847n 0 26.098847n 1.8 27.881746n 1.8
+ 28.081746n 0 29.864644n 0 30.064644n 1.8 31.860526n 1.8
+ 32.060526n 0 33.856408n 0 34.056408n 1.8 35.848234n 1.8
+ 36.048234n 0 37.840060n 0 38.040060n 1.8 39.840361n 1.8
+ 40.040361n 0 41.840663n 0 42.040663n 1.8 43.861669n 1.8
+ 44.061669n 0 45.882676n 0 46.082676n 1.8 47.870135n 1.8
+ 48.070135n 0 49.857594n 0 50.057594n 1.8 51.854738n 1.8
+ 52.054738n 0 53.851883n 0 54.051883n 1.8 55.843416n 1.8
+ 56.043416n 0 57.834949n 0 58.034949n 1.8 59.825735n 1.8
+ 60.025735n 0 61.816522n 0 62.016522n 1.8 63.811233n 1.8
+ 64.011233n 0 65.805944n 0 66.005944n 1.8 67.799275n 1.8
+ 67.999275n 0 69.792606n 0 69.992606n 1.8 71.809384n 1.8
+ 72.009384n 0 73.826162n 0 74.026162n 1.8 75.823887n 1.8
+ 76.023887n 0 77.821612n 0 78.021612n 1.8 79.817868n 1.8
+ 80.017868n 0 81.814123n 0 82.014123n 1.8 83.825443n 1.8
+ 84.025443n 0 85.836762n 0 86.036762n 1.8 87.828899n 1.8
+ 88.028899n 0 89.821036n 0 90.021036n 1.8 91.820183n 1.8
+ 92.020183n 0 93.819330n 0 94.019330n 1.8 95.806705n 1.8
+ 96.006705n 0 97.794081n 0 97.994081n 1.8 99.807644n 1.8
+ 100.007644n 0 101.821208n 0 102.021208n 1.8 103.830550n 1.8
+ 104.030550n 0 105.839891n 0 106.039891n 1.8 107.857874n 1.8
+ 108.057874n 0 109.875858n 0 110.075858n 1.8 111.869682n 1.8
+ 112.069682n 0 113.863505n 0 114.063505n 1.8 115.863177n 1.8
+ 116.063177n 0 117.862848n 0 118.062848n 1.8 119.833821n 1.8
+ 120.033821n 0 121.804794n 0 122.004794n 1.8 123.802514n 1.8
+ 124.002514n 0 125.800233n 0 126.000233n 1.8 127.799136n 1.8
+ 127.999136n 0 129.798039n 0 129.998039n 1.8 131.774326n 1.8
+ 131.974326n 0 133.750614n 0 133.950614n 1.8 135.760437n 1.8
+ 135.960437n 0 137.770260n 0 137.970260n 1.8 139.751339n 1.8
+ 139.951339n 0 141.732418n 0 141.932418n 1.8 143.717030n 1.8
+ 143.917030n 0 145.701642n 0 145.901642n 1.8 147.674241n 1.8
+ 147.874241n 0 149.646839n 0 149.846839n 1.8 151.639350n 1.8
+ 151.839350n 0 153.631862n 0 153.831862n 1.8 155.622749n 1.8
+ 155.822749n 0 157.613635n 0 157.813635n 1.8 159.615101n 1.8
+ 159.815101n 0 161.616567n 0 161.816567n 1.8 163.605709n 1.8
+ 163.805709n 0 165.594851n 0 165.794851n 1.8 167.588890n 1.8
+ 167.788890n 0 169.582928n 0 169.782928n 1.8 171.571539n 1.8
+ 171.771539n 0 173.560149n 0 173.760149n 1.8 175.554637n 1.8
+ 175.754637n 0 177.549125n 0 177.749125n 1.8 179.540204n 1.8
+ 179.740204n 0 181.531283n 0 181.731283n 1.8 183.524430n 1.8
+ 183.724430n 0 185.517578n 0 185.717578n 1.8 187.498225n 1.8
+ 187.698225n 0 189.478872n 0 189.678872n 1.8 191.475311n 1.8
+ 191.675311n 0 193.471749n 0 193.671749n 1.8 195.466388n 1.8
+ 195.666388n 0 197.461027n 0 197.661027n 1.8 199.435061n 1.8
+ 199.635061n 0 201.409094n 0 201.609094n 1.8 203.400215n 1.8
+ 203.600215n 0 205.391335n 0 205.591335n 1.8 207.374766n 1.8
+ 207.574766n 0 209.358197n 0 209.558197n 1.8 211.358054n 1.8
+ 211.558054n 0 213.357911n 0 213.557911n 1.8 215.363894n 1.8
+ 215.563894n 0 217.369878n 0 217.569878n 1.8 219.362957n 1.8
+ 219.562957n 0 221.356035n 0 221.556035n 1.8 223.352998n 1.8
+ 223.552998n 0 225.349961n 0 225.549961n 1.8 227.348460n 1.8
+ 227.548460n 0 229.346959n 0 229.546959n 1.8 231.323590n 1.8
+ 231.523590n 0 233.300222n 0 233.500222n 1.8 235.297086n 1.8
+ 235.497086n 0 237.293950n 0 237.493950n 1.8 239.265187n 1.8
+ 239.465187n 0 241.236423n 0 241.436423n 1.8 243.246250n 1.8
+ 243.446250n 0 245.256077n 0 245.456077n 1.8 247.247898n 1.8
+ 247.447898n 0 249.239720n 0 249.439720n 1.8 251.215792n 1.8
+ 251.415792n 0 253.191864n 0 253.391864n 1.8 255.170521n 1.8
+ 255.370521n 0 257.149178n 0 257.349178n 1.8 259.157904n 1.8
+ 259.357904n 0 261.166630n 0 261.366630n 1.8 263.154386n 1.8
+ 263.354386n 0 265.142142n 0 265.342142n 1.8 267.153983n 1.8
+ 267.353983n 0 269.165823n 0 269.365823n 1.8 271.167002n 1.8
+ 271.367002n 0 273.168181n 0 273.368181n 1.8 275.147435n 1.8
+ 275.347435n 0 277.126689n 0 277.326689n 1.8 279.126747n 1.8
+ 279.326747n 0 281.126806n 0 281.326806n 1.8 283.124901n 1.8
+ 283.324901n 0 285.122996n 0 285.322996n 1.8 287.124624n 1.8
+ 287.324624n 0 289.126251n 0 289.326251n 1.8 291.112965n 1.8
+ 291.312965n 0 293.099680n 0 293.299680n 1.8 295.085468n 1.8
+ 295.285468n 0 297.071257n 0 297.271257n 1.8 299.073649n 1.8
+ 299.273649n 0 301.076042n 0 301.276042n 1.8 303.074289n 1.8
+ 303.274289n 0 305.072536n 0 305.272536n 1.8 307.080244n 1.8
+ 307.280244n 0 309.087953n 0 309.287953n 1.8 311.101314n 1.8
+ 311.301314n 0 313.114674n 0 313.314674n 1.8 315.125379n 1.8
+ 315.325379n 0 317.136083n 0 317.336083n 1.8 319.138464n 1.8
+ 319.338464n 0 321.140844n 0 321.340844n 1.8 323.137699n 1.8
+ 323.337699n 0 325.134553n 0 325.334553n 1.8 327.149139n 1.8
+ 327.349139n 0 329.163724n 0 329.363724n 1.8 331.155095n 1.8
+ 331.355095n 0 333.146466n 0 333.346466n 1.8 335.154477n 1.8
+ 335.354477n 0 337.162487n 0 337.362487n 1.8 339.164657n 1.8
+ 339.364657n 0 341.166826n 0 341.366826n 1.8 343.169420n 1.8
+ 343.369420n 0 345.172013n 0 345.372013n 1.8 347.183778n 1.8
+ 347.383778n 0 349.195543n 0 349.395543n 1.8 351.197945n 1.8
+ 351.397945n 0 353.200348n 0 353.400348n 1.8 355.206738n 1.8
+ 355.406738n 0 357.213128n 0 357.413128n 1.8 359.211622n 1.8
+ 359.411622n 0 361.210116n 0 361.410116n 1.8 363.189782n 1.8
+ 363.389782n 0 365.169449n 0 365.369449n 1.8 367.168973n 1.8
+ 367.368973n 0 369.168498n 0 369.368498n 1.8 371.171226n 1.8
+ 371.371226n 0 373.173954n 0 373.373954n 1.8 375.165363n 1.8
+ 375.365363n 0 377.156773n 0 377.356773n 1.8 379.134292n 1.8
+ 379.334292n 0 381.111811n 0 381.311811n 1.8 383.107783n 1.8
+ 383.307783n 0 385.103755n 0 385.303755n 1.8 387.106569n 1.8
+ 387.306569n 0 389.109382n 0 389.309382n 1.8 391.103452n 1.8
+ 391.303452n 0 393.097522n 0 393.297522n 1.8 395.086362n 1.8
+ 395.286362n 0 397.075202n 0 397.275202n 1.8 399.070503n 1.8
+ 399.270503n 0 401.065804n 0 401.265804n 1.8 403.065182n 1.8
+ 403.265182n 0 405.064559n 0 405.264559n 1.8 407.056918n 1.8
+ 407.256918n 0 409.049276n 0 409.249276n 1.8 411.050284n 1.8
+ 411.250284n 0 413.051293n 0 413.251293n 1.8 415.044443n 1.8
+ 415.244443n 0 417.037594n 0 417.237594n 1.8 419.021847n 1.8
+ 419.221847n 0 421.006100n 0 421.206100n 1.8 423.016903n 1.8
+ 423.216903n 0 425.027705n 0 425.227705n 1.8 427.021903n 1.8
+ 427.221903n 0 429.016101n 0 429.216101n 1.8 431.034629n 1.8
+ 431.234629n 0 433.053158n 0 433.253158n 1.8 435.060667n 1.8
+ 435.260667n 0 437.068175n 0 437.268175n 1.8 439.058801n 1.8
+ 439.258801n 0 441.049427n 0 441.249427n 1.8 443.055052n 1.8
+ 443.255052n 0 445.060676n 0 445.260676n 1.8 447.063497n 1.8
+ 447.263497n 0 449.066318n 0 449.266318n 1.8 451.079914n 1.8
+ 451.279914n 0 453.093510n 0 453.293510n 1.8 455.097777n 1.8
+ 455.297777n 0 457.102044n 0 457.302044n 1.8 459.103777n 1.8
+ 459.303777n 0 461.105509n 0 461.305509n 1.8 463.103525n 1.8
+ 463.303525n 0 465.101540n 0 465.301540n 1.8 467.106298n 1.8
+ 467.306298n 0 469.111055n 0 469.311055n 1.8 471.114091n 1.8
+ 471.314091n 0 473.117126n 0 473.317126n 1.8 475.107856n 1.8
+ 475.307856n 0 477.098586n 0 477.298586n 1.8 479.089687n 1.8
+ 479.289687n 0 481.080788n 0 481.280788n 1.8 483.091419n 1.8
+ 483.291419n 0 485.102049n 0 485.302049n 1.8 487.084703n 1.8
+ 487.284703n 0 489.067357n 0 489.267357n 1.8 491.054592n 1.8
+ 491.254592n 0 493.041827n 0 493.241827n 1.8 495.045660n 1.8
+ 495.245660n 0 497.049493n 0 497.249493n 1.8 499.038555n 1.8
+ 499.238555n 0 501.027617n 0 501.227617n 1.8 503.023288n 1.8
+ 503.223288n 0 505.018958n 0 505.218958n 1.8 506.998435n 1.8
+ 507.198435n 0 508.977912n 0 509.177912n 1.8 510.976293n 1.8
+ 511.176293n 0 512.974673n 0 513.174673n 1.8 514.974427n 1.8
+ 515.174427n 0 516.974181n 0 517.174181n 1.8 518.950667n 1.8
+ 519.150667n 0 520.927153n 0 521.127153n 1.8 522.922636n 1.8
+ 523.122636n 0 524.918119n 0 525.118119n 1.8 526.922320n 1.8
+ 527.122320n 0 528.926522n 0 529.126522n 1.8 530.927614n 1.8
+ 531.127614n 0 532.928706n 0 533.128706n 1.8 534.936243n 1.8
+ 535.136243n 0 536.943781n 0 537.143781n 1.8 538.927929n 1.8
+ 539.127929n 0 540.912077n 0 541.112077n 1.8 542.911774n 1.8
+ 543.111774n 0 544.911470n 0 545.111470n 1.8 546.920772n 1.8
+ 547.120772n 0 548.930073n 0 549.130073n 1.8 550.916203n 1.8
+ 551.116203n 0 552.902334n 0 553.102334n 1.8 554.901685n 1.8
+ 555.101685n 0 556.901036n 0 557.101036n 1.8 558.909757n 1.8
+ 559.109757n 0 560.918478n 0 561.118478n 1.8 562.918869n 1.8
+ 563.118869n 0 564.919260n 0 565.119260n 1.8 566.920967n 1.8
+ 567.120967n 0 568.922674n 0 569.122674n 1.8 570.919851n 1.8
+ 571.119851n 0 572.917028n 0 573.117028n 1.8 574.927508n 1.8
+ 575.127508n 0 576.937989n 0 577.137989n 1.8 578.931746n 1.8
+ 579.131746n 0 580.925502n 0 581.125502n 1.8 582.928118n 1.8
+ 583.128118n 0 584.930734n 0 585.130734n 1.8 586.913886n 1.8
+ 587.113886n 0 588.897037n 0 589.097037n 1.8 590.895442n 1.8
+ 591.095442n 0 592.893847n 0 593.093847n 1.8 594.898646n 1.8
+ 595.098646n 0 596.903445n 0 597.103445n 1.8 598.907725n 1.8
+ 599.107725n 0 600.912005n 0 601.112005n 1.8 602.911821n 1.8
+ 603.111821n 0 604.911638n 0 605.111638n 1.8 606.911974n 1.8
+ 607.111974n 0 608.912310n 0 609.112310n 1.8 610.914307n 1.8
+ 611.114307n 0 612.916303n 0 613.116303n 1.8 614.936753n 1.8
+ 615.136753n 0 616.957202n 0 617.157202n 1.8 618.954937n 1.8
+ 619.154937n 0 620.952672n 0 621.152672n 1.8 622.955414n 1.8
+ 623.155414n 0 624.958155n 0 625.158155n 1.8 626.955477n 1.8
+ 627.155477n 0 628.952799n 0 629.152799n 1.8 630.953264n 1.8
+ 631.153264n 0 632.953729n 0 633.153729n 1.8 634.950333n 1.8
+ 635.150333n 0 636.946937n 0 637.146937n 1.8 638.949543n 1.8
+ 639.149543n 0 640.952150n 0 641.152150n 1.8 642.948009n 1.8
+ 643.148009n 0 644.943868n 0 645.143868n 1.8 646.943003n 1.8
+ 647.143003n 0 648.942137n 0 649.142137n 1.8 650.938433n 1.8
+ 651.138433n 0 652.934728n 0 653.134728n 1.8 654.933122n 1.8
+ 655.133122n 0 656.931517n 0 657.131517n 1.8 658.929248n 1.8
+ 659.129248n 0 660.926978n 0 661.126978n 1.8 662.929969n 1.8
+ 663.129969n 0 664.932959n 0 665.132959n 1.8 666.927432n 1.8
+ 667.127432n 0 668.921905n 0 669.121905n 1.8 670.918172n 1.8
+ 671.118172n 0 672.914439n 0 673.114439n 1.8 674.904960n 1.8
+ 675.104960n 0 676.895480n 0 677.095480n 1.8 678.885806n 1.8
+ 679.085806n 0 680.876132n 0 681.076132n 1.8 682.902750n 1.8
+ 683.102750n 0 684.929368n 0 685.129368n 1.8 686.927252n 1.8
+ 687.127252n 0 688.925136n 0 689.125136n 1.8 690.917471n 1.8
+ 691.117471n 0 692.909806n 0 693.109806n 1.8 694.905958n 1.8
+ 695.105958n 0 696.902110n 0 697.102110n 1.8 698.898394n 1.8
+ 699.098394n 0 700.894679n 0 701.094679n 1.8 702.900597n 1.8
+ 703.100597n 0 704.906514n 0 705.106514n 1.8 706.908105n 1.8
+ 707.108105n 0 708.909695n 0 709.109695n 1.8 710.914410n 1.8
+ 711.114410n 0 712.919125n 0 713.119125n 1.8 714.912662n 1.8
+ 715.112662n 0 716.906200n 0 717.106200n 1.8 718.891549n 1.8
+ 719.091549n 0 720.876898n 0 721.076898n 1.8 722.882712n 1.8
+ 723.082712n 0 724.888527n 0 725.088527n 1.8 726.880815n 1.8
+ 727.080815n 0 728.873102n 0 729.073102n 1.8 730.867559n 1.8
+ 731.067559n 0 732.862017n 0 733.062017n 1.8 734.840981n 1.8
+ 735.040981n 0 736.819946n 0 737.019946n 1.8 738.811245n 1.8
+ 739.011245n 0 740.802545n 0 741.002545n 1.8 742.804129n 1.8
+ 743.004129n 0 744.805713n 0 745.005713n 1.8 746.801038n 1.8
+ 747.001038n 0 748.796364n 0 748.996364n 1.8 750.805025n 1.8
+ 751.005025n 0 752.813686n 0 753.013686n 1.8 754.808231n 1.8
+ 755.008231n 0 756.802776n 0 757.002776n 1.8 758.786862n 1.8
+ 758.986862n 0 760.770948n 0 760.970948n 1.8 762.772330n 1.8
+ 762.972330n 0 764.773712n 0 764.973712n 1.8 766.772275n 1.8
+ 766.972275n 0 768.770839n 0 768.970839n 1.8 770.779248n 1.8
+ 770.979248n 0 772.787657n 0 772.987657n 1.8 774.803334n 1.8
+ 775.003334n 0 776.819012n 0 777.019012n 1.8 778.826794n 1.8
+ 779.026794n 0 780.834576n 0 781.034576n 1.8 782.836371n 1.8
+ 783.036371n 0 784.838166n 0 785.038166n 1.8 786.842325n 1.8
+ 787.042325n 0 788.846483n 0 789.046483n 1.8 790.852944n 1.8
+ 791.052944n 0 792.859404n 0 793.059404n 1.8 794.856133n 1.8
+ 795.056133n 0 796.852861n 0 797.052861n 1.8 798.850678n 1.8
+ 799.050678n 0 800.848496n 0 801.048496n 1.8 802.827206n 1.8
+ 803.027206n 0 804.805916n 0 805.005916n 1.8 806.832739n 1.8
+ 807.032739n 0 808.859562n 0 809.059562n 1.8 810.868409n 1.8
+ 811.068409n 0 812.877256n 0 813.077256n 1.8 814.868079n 1.8
+ 815.068079n 0 816.858902n 0 817.058902n 1.8 818.858459n 1.8
+ 819.058459n 0 820.858016n 0 821.058016n 1.8 822.859995n 1.8
+ 823.059995n 0 824.861975n 0 825.061975n 1.8 826.858886n 1.8
+ 827.058886n 0 828.855797n 0 829.055797n 1.8 830.855331n 1.8
+ 831.055331n 0 832.854866n 0 833.054866n 1.8 834.868816n 1.8
+ 835.068816n 0 836.882767n 0 837.082767n 1.8 838.877613n 1.8
+ 839.077613n 0 840.872459n 0 841.072459n 1.8 842.870994n 1.8
+ 843.070994n 0 844.869528n 0 845.069528n 1.8 846.865035n 1.8
+ 847.065035n 0 848.860542n 0 849.060542n 1.8 850.879794n 1.8
+ 851.079794n 0 852.899046n 0 853.099046n 1.8 854.891294n 1.8
+ 855.091294n 0 856.883542n 0 857.083542n 1.8 858.886088n 1.8
+ 859.086088n 0 860.888633n 0 861.088633n 1.8 862.894235n 1.8
+ 863.094235n 0 864.899837n 0 865.099837n 1.8 866.890402n 1.8
+ 867.090402n 0 868.880966n 0 869.080966n 1.8 870.883622n 1.8
+ 871.083622n 0 872.886277n 0 873.086277n 1.8 874.888336n 1.8
+ 875.088336n 0 876.890395n 0 877.090395n 1.8 878.902157n 1.8
+ 879.102157n 0 880.913918n 0 881.113918n 1.8 882.906632n 1.8
+ 883.106632n 0 884.899346n 0 885.099346n 1.8 886.874170n 1.8
+ 887.074170n 0 888.848994n 0 889.048994n 1.8 890.834569n 1.8
+ 891.034569n 0 892.820144n 0 893.020144n 1.8 894.828994n 1.8
+ 895.028994n 0 896.837843n 0 897.037843n 1.8 898.824493n 1.8
+ 899.024493n 0 900.811143n 0 901.011143n 1.8 902.812335n 1.8
+ 903.012335n 0 904.813527n 0 905.013527n 1.8 906.811703n 1.8
+ 907.011703n 0 908.809880n 0 909.009880n 1.8 910.804860n 1.8
+ 911.004860n 0 912.799839n 0 912.999839n 1.8 914.795876n 1.8
+ 914.995876n 0 916.791913n 0 916.991913n 1.8 918.800805n 1.8
+ 919.000805n 0 920.809697n 0 921.009697n 1.8 922.811459n 1.8
+ 923.011459n 0 924.813221n 0 925.013221n 1.8 926.815734n 1.8
+ 927.015734n 0 928.818248n 0 929.018248n 1.8 930.806515n 1.8
+ 931.006515n 0 932.794783n 0 932.994783n 1.8 934.801337n 1.8
+ 935.001337n 0 936.807892n 0 937.007892n 1.8 938.805709n 1.8
+ 939.005709n 0 940.803526n 0 941.003526n 1.8 942.784342n 1.8
+ 942.984342n 0 944.765159n 0 944.965159n 1.8 946.775537n 1.8
+ 946.975537n 0 948.785915n 0 948.985915n 1.8 950.789181n 1.8
+ 950.989181n 0 952.792447n 0 952.992447n 1.8 954.770445n 1.8
+ 954.970445n 0 956.748443n 0 956.948443n 1.8 958.749605n 1.8
+ 958.949605n 0 960.750767n 0 960.950767n 1.8 962.730486n 1.8
+ 962.930486n 0 964.710204n 0 964.910204n 1.8 966.706107n 1.8
+ 966.906107n 0 968.702009n 0 968.902009n 1.8 970.688628n 1.8
+ 970.888628n 0 972.675246n 0 972.875246n 1.8 974.685924n 1.8
+ 974.885924n 0 976.696603n 0 976.896603n 1.8 978.695421n 1.8
+ 978.895421n 0 980.694240n 0 980.894240n 1.8 982.688968n 1.8
+ 982.888968n 0 984.683696n 0 984.883696n 1.8 986.691485n 1.8
+ 986.891485n 0 988.699274n 0 988.899274n 1.8 990.703888n 1.8
+ 990.903888n 0 992.708503n 0 992.908503n 1.8 994.715470n 1.8
+ 994.915470n 0 996.722438n 0 996.922438n 1.8 998.749498n 1.8
+ 998.949498n 0 1000.776559n 0 1000.976559n 1.8 1002.758064n 1.8
+ 1002.958064n 0 1004.739569n 0 1004.939569n 1.8 1006.729494n 1.8
+ 1006.929494n 0 1008.719418n 0 1008.919418n 1.8 1010.713228n 1.8
+ 1010.913228n 0 1012.707038n 0 1012.907038n 1.8 1014.716556n 1.8
+ 1014.916556n 0 1016.726074n 0 1016.926074n 1.8 1018.717877n 1.8
+ 1018.917877n 0 1020.709681n 0 1020.909681n 1.8 1022.708318n 1.8
+ 1022.908318n 0 1024.706955n 0 1024.906955n 1.8 1026.698285n 1.8
+ 1026.898285n 0 1028.689614n 0 1028.889614n 1.8 1030.694939n 1.8
+ 1030.894939n 0 1032.700264n 0 1032.900264n 1.8 1034.691556n 1.8
+ 1034.891556n 0 1036.682848n 0 1036.882848n 1.8 1038.687515n 1.8
+ 1038.887515n 0 1040.692183n 0 1040.892183n 1.8 1042.684967n 1.8
+ 1042.884967n 0 1044.677752n 0 1044.877752n 1.8 1046.674504n 1.8
+ 1046.874504n 0 1048.671256n 0 1048.871256n 1.8 1050.663849n 1.8
+ 1050.863849n 0 1052.656442n 0 1052.856442n 1.8 1054.652892n 1.8
+ 1054.852892n 0 1056.649343n 0 1056.849343n 1.8 1058.651383n 1.8
+ 1058.851383n 0 1060.653424n 0 1060.853424n 1.8 1062.648429n 1.8
+ 1062.848429n 0 1064.643434n 0 1064.843434n 1.8 1066.636107n 1.8
+ 1066.836107n 0 1068.628781n 0 1068.828781n 1.8 1070.610207n 1.8
+ 1070.810207n 0 1072.591634n 0 1072.791634n 1.8 1074.609156n 1.8
+ 1074.809156n 0 1076.626679n 0 1076.826679n 1.8 1078.616188n 1.8
+ 1078.816188n 0 1080.605698n 0 1080.805698n 1.8 1082.590696n 1.8
+ 1082.790696n 0 1084.575693n 0 1084.775693n 1.8 1086.582653n 1.8
+ 1086.782653n 0 1088.589613n 0 1088.789613n 1.8 1090.594989n 1.8
+ 1090.794989n 0 1092.600365n 0 1092.800365n 1.8 1094.593908n 1.8
+ 1094.793908n 0 1096.587451n 0 1096.787451n 1.8 1098.585895n 1.8
+ 1098.785895n 0 1100.584340n 0 1100.784340n 1.8 1102.584520n 1.8
+ 1102.784520n 0 1104.584701n 0 1104.784701n 1.8 1106.574375n 1.8
+ 1106.774375n 0 1108.564049n 0 1108.764049n 1.8 1110.560369n 1.8
+ 1110.760369n 0 1112.556688n 0 1112.756688n 1.8 1114.556147n 1.8
+ 1114.756147n 0 1116.555605n 0 1116.755605n 1.8 1118.553553n 1.8
+ 1118.753553n 0 1120.551500n 0 1120.751500n 1.8 1122.544597n 1.8
+ 1122.744597n 0 1124.537694n 0 1124.737694n 1.8 1126.534444n 1.8
+ 1126.734444n 0 1128.531194n 0 1128.731194n 1.8 1130.549982n 1.8
+ 1130.749982n 0 1132.568769n 0 1132.768769n 1.8 1134.571851n 1.8
+ 1134.771851n 0 1136.574932n 0 1136.774932n 1.8 1138.577417n 1.8
+ 1138.777417n 0 1140.579902n 0 1140.779902n 1.8 1142.567261n 1.8
+ 1142.767261n 0 1144.554620n 0 1144.754620n 1.8 1146.548985n 1.8
+ 1146.748985n 0 1148.543351n 0 1148.743351n 1.8 1150.531414n 1.8
+ 1150.731414n 0 1152.519478n 0 1152.719478n 1.8 1154.524061n 1.8
+ 1154.724061n 0 1156.528644n 0 1156.728644n 1.8 1158.536998n 1.8
+ 1158.736998n 0 1160.545353n 0 1160.745353n 1.8 1162.535436n 1.8
+ 1162.735436n 0 1164.525519n 0 1164.725519n 1.8 1166.517752n 1.8
+ 1166.717752n 0 1168.509986n 0 1168.709986n 1.8 1170.495511n 1.8
+ 1170.695511n 0 1172.481036n 0 1172.681036n 1.8 1174.481770n 1.8
+ 1174.681770n 0 1176.482503n 0 1176.682503n 1.8 1178.476167n 1.8
+ 1178.676167n 0 1180.469830n 0 1180.669830n 1.8 1182.479158n 1.8
+ 1182.679158n 0 1184.488485n 0 1184.688485n 1.8 1186.471852n 1.8
+ 1186.671852n 0 1188.455218n 0 1188.655218n 1.8 1190.445725n 1.8
+ 1190.645725n 0 1192.436232n 0 1192.636232n 1.8 1194.440491n 1.8
+ 1194.640491n 0 1196.444749n 0 1196.644749n 1.8 1198.452374n 1.8
+ 1198.652374n 0 1200.460000n 0 1200.660000n 1.8 1202.457600n 1.8
+ 1202.657600n 0
+ )


** sky130 PDK model include (tt corner) -- patched per-point by sim/harness.
** No device in this testbench uses it: it is here so the harness's own
** corner substitution and this record's environment provenance are the same
** as every other campaign's. See this file's header comment.
.lib /home/ubuntu/.volare/sky130A/libs.tech/combined/sky130.lib.spice tt
** No .tran/.print card here on purpose -- sim/harness/measure.py injects the
** analysis from this manifest's own measure block.

**** end user architecture code
**.ends
.GLOBAL GND
.temp 27
.control
set filetype=ascii
save v(CLK)
tran 200p 1.25u
linearize v(CLK)
wrdata tt_27c_1.80v-point000.raw v(CLK)
destroy all
echo "sim/harness: analysis complete"
.endc
.end
